US05681838
(1-(3-(3-(4-(Aminoiminomethyl)phenyl)acryloylamino)propyl)-3-(hydroxycarbonylphenylmethyl)ureido)acetic acid acetate
78 mg (0.165 mmol) of methyl (3-(3-(3-(4-(aminoiminomethyl)phenyl)acryloylamino)propyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate are stirred at room temperature for 20 h together with 2 ml of 1N sodium hydroxide solution, 5 ml of water and 5 ml of methanol. Following concentration, the residue is, for purification, chromatographed on Sephadex LH20 using an homogeneous mixture of butanol/glacial acetic acid/water.

reactant | methyl (3-(3-(3-(4-(aminoiminomethyl)phenyl)acryloylamino)propyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate | 0.165 mmol, 78 mg | NN=CC1=CC=C(C=C1)C=CC(=O)NCCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O | C25H27N5O5
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | (1-(3-(3-(4-(Aminoiminomethyl)phenyl)acryloylamino)propyl)-3-(hydroxycarbonylphenylmethyl)ureido)acetic acid acetate | C(C)(=O)O.NN=CC1=CC=C(C=C1)C=CC(=O)NCCCN(C(=O)NC(C1=CC=CC=C1)C(=O)O)CC(=O)O | InChI=1S/C24H27N5O6.C2H4O2/c25-27-15-18-9-7-17(8-10-18)11-12-20(30)26-13-4-14-29(16-21(31)32)24(35)28-22(23(33)34)19-5-2-1-3-6-19;1-2(3)4/h1-3,5-12,15,22H,4,13-14,16,25H2,(H,26,30)(H,28,35)(H,31,32)(H,33,34);1H3,(H,3,4)
